US05374772
A mixture of 1.66 g of 3-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]-5-(tetradecyloxy)benzoic acid and 0.3 g of 10% palladium on carbon in 75 ml of THF was stirred in a hydrogen atmosphere until uptake ceased after 4 hours. The usual workup followed by trituration with hexane and filtration gave 1.14 g (91% yield, mp 92°-94°) of 3-[[6-(2,3-dihydroxyphenyl)hexyl]oxy]-5-(tetradecyloxy) benzoic acid.

reactant | 3-[[6-[2,3-bis(phenylmethoxy)phenyl]hexyl]oxy]-5-(tetradecyloxy)benzoic acid | 1.66 g | C1(=CC=CC=C1)COC1=C(C=CC=C1OCC1=CC=CC=C1)CCCCCCOC=1C=C(C(=O)O)C=C(C1)OCCCCCCCCCCCCCC | C47H62O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 3-[[6-(2,3-dihydroxyphenyl)hexyl]oxy]-5-(tetradecyloxy) benzoic acid | 1.14 g, 91% yield | OC1=C(C=CC=C1O)CCCCCCOC=1C=C(C(=O)O)C=C(C1)OCCCCCCCCCCCCCC | C33H50O6
